US09127013B2
Step A6. Preparation of (R)-4,4-difluoro-2-(3-fluorophenyl)pyrrolidine
To (R)-Tert-butyl 4,4-difluoro-2-(3-fluorophenyl)pyrrolidine-1-carboxylate (180 mg, 0.6 mmol) in a pressure reaction tube was added a solution of HCl (2 mL, 4 N dioxane, 8 mmol), then the reaction was sealed and heated at 60° C. for 4 hours. For workup, the reaction was poured into a mixture of ice and 1 M NaOH, and extracted with several portions of EtOAc. The combined organic extracts were filtered through a Phase Separator filter paper and concentrated, yielding the final product as clear oil, which was used in the next step without further purification.

reactant | (R)-Tert-butyl 4,4-difluoro-2-(3-fluorophenyl)pyrrolidine-1-carboxylate | 0.6 mmol, 180 mg | FC1(C[C@@H](N(C1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F)F | C15H18F3NO2
reactant | HCl | 8 mmol, 4 N, 2 mL | Cl | ClH
reactant | NaOH | 1 M | [OH-].[Na+]
product | (R)-4,4-difluoro-2-(3-fluorophenyl)pyrrolidine | FC1(C[C@@H](NC1)C1=CC(=CC=C1)F)F | C10H10F3N
